US07368578B2
To a solution (5 mL) of tetraethyl methylenediphosphonate in N,N-dimethylformamide was added sodium hydride (60% in oil, 8.8 mg) at room temperature, and the mixture was stirred for 15 min. 3-(Methylamino)-1-phenyl-1H-pyrazole-4-carbaldehyde (1.00 g) was added to the reaction mixture, and the mixture was further stirred at room temperature for 2 hrs. Water was added to the reaction mixture and the mixture was stirred at room temperature for 2 hrs, and stood still for 16 hrs. The precipitated pale-yellow needle crystals were collected by filtration. The obtained crystals were recrystallized from ethyl acetate-hexane to give diethyl {(E)-2-[3-(methylamino)-1-phenyl-1H-pyrazol-4-yl]ethenyl}phosphonate as pale-yellow needle crystals (1.45 g, yield 87%). melting point: 132-133° C.

reactant | tetraethyl methylenediphosphonate | 5 mL | C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H22O6P2
reactant | sodium hydride | 8.8 mg | [H-].[Na+]
reactant | 3-(Methylamino)-1-phenyl-1H-pyrazole-4-carbaldehyde | 1.00 g | CNC1=NN(C=C1C=O)C1=CC=CC=C1 | C11H11N3O
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | diethyl {(E)-2-[3-(methylamino)-1-phenyl-1H-pyrazol-4-yl]ethenyl}phosphonate | CNC1=NN(C=C1/C=C/P(OCC)(OCC)=O)C1=CC=CC=C1 | C16H22N3O3P
